US06703387B2
100 mg (2.5 mmol) of 60% sodium hydride disperion in mineral oil were added to a solution of 728 mg (2.2 mmol) of (E)-5-(3,4-dichlorostyryl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one in 5 ml of anhydrous dimethylformamide at room temperature under a nitrogen atmosphere and stirred for 30 minutes. The mixture was cooled to −20° C., 431 mg (2.5 mmol) of diethyl chlorophosphate were added and stirring was continued for a further 30 minutes at −10° C. before being added to a solution prepared by addition of 1.65 ml (3.3 mmol) of 2M lithium diisopropylamide to a solution of 375 mg (3.32 mmol) of ethyl isocyanoacetate in 5 ml of anhydrous tetrahydrofuran at −78° C. under a nitrogen atmosphere. The resulting mixture was stirred at −78° C. for 2 hours then warmed to −30° C. and 180 mg (3 mmol) of acetic acid were added followed by water and ethyl acetate. The organic phase was washed twice with water, dried over magnesium sulphate, filtered and evaporated to dryness. The residue was chromatographed on silica gel using ethyl acetate/methanol (49:1) for the elution. The product was dissolved in 1 ml of ethyl acetate and 10 ml of diethyl ether and left to crystallize. There was obtained 116 mg of ethyl (E)-6-(3,4-dichlorostyryl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate as a light-brown solid. MS: m/e 425.9 [M+H]+.

reactant | sodium hydride | 2.5 mmol, 100 mg | [H-].[Na+]
reactant | (E)-5-(3,4-dichlorostyryl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 2.2 mmol, 728 mg | ClC=1C=C(C=C\C\2=N/CC(NC3=C2C=CC=C3)=O)C=CC1Cl | C17H12Cl2N2O
reactant | diethyl chlorophosphate | 2.5 mmol, 431 mg | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
reactant | lithium diisopropylamide | 3.3 mmol, 2M, 1.65 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl isocyanoacetate | 3.32 mmol, 375 mg | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | acetic acid | 3 mmol, 180 mg | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl (E)-6-(3,4-dichlorostyryl)-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 116 mg | ClC=1C=C(C=C\C\2=N/CC=3N(C4=C2C=CC=C4)C=NC3C(=O)OCC)C=CC1Cl | C22H17Cl2N3O2
